US05834506
3-(4-Amino-2-tert-butyl-5-methyl-phenylsulfanyl)-4-hydroxy-6,6-bis[2-(4-hydroxy-phenyl)ethyl]-5,6-dihydro-pyran-2-one
The compound was synthesized following General Method 9 using 118 mg (0.33 mmol) of 4-hydroxy-6,6-bis-[2-(4-hydroxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one (prepared in Example PP), 150 mg (0.33 mmol) of toluene-4-thiosulfonic acid S-(4-amino-2-tert-butyl-5-methyl-phenyl) ester (prepared in Example HHHH), 184 mg (1.32 mmol) of K2CO3 and 2 mL of DMF. The reaction was worked up by partitioning between EtOAc and H2O. The organic layer was separated and concentrated, then triturated with Et2O. The resultant solid was placed in chilled HCl-saturated CH2Cl2 and stirred for 18 hours. After concentration, the residue was triturated with Et2O to yield the title compound, m.p. 140°-145° C. 1H NMR (DMSO-d6) δ 1.5 (s, 9 H), 1.9 (s, 3 H), 2.05 (m, 4 H), 2.5 (m, 6 H), 6.68 (d, 4 H), 6.75 (s, 1 H), 7.0 (d, 4 H), 7.35 (s, 1 H), 7.95 (s, 2 H), 9.25 (s, 2 H).

reactant | 4-hydroxy-6,6-bis-[2-(4-hydroxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one | 0.33 mmol, 118 mg | OC1=CC(OC(C1)(CCC1=CC=C(C=C1)O)CCC1=CC=C(C=C1)O)=O | C21H22O5
reactant | toluene-4-thiosulfonic acid S-(4-amino-2-tert-butyl-5-methyl-phenyl) ester | 0.33 mmol, 150 mg | NC1=CC(=C(C=C1C)SS(=O)(=O)C1=CC=C(C=C1)C)C(C)(C)C | C18H23NO2S2
reactant | K2CO3 | 1.32 mmol, 184 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-(4-Amino-2-tert-butyl-5-methyl-phenylsulfanyl)-4-hydroxy-6,6-bis[2-(4-hydroxy-phenyl)ethyl]-5,6-dihydro-pyran-2-one | NC1=CC(=C(C=C1C)SC=1C(OC(CC1O)(CCC1=CC=C(C=C1)O)CCC1=CC=C(C=C1)O)=O)C(C)(C)C | C32H37NO5S
